US08466167B2
Pyrazino[2,3-c]quinolin-5-amine
A solution of 2-(tert-butoxycarbonylamino)phenylboronic acid (1.0 eq.) and 3-chloropyrazine-2-carbonitrile (1.0 eq.) in toluene (0.44 M) was mixed with tetrakis(triphenyl-phosphine)palladium (5 mol %) and 2N aqueous potassium carbonate solution (2.0 eq.). The reaction was heated to 100° C. and stirred overnight. After cooling to ambient temperature, the reaction content was diluted with 2% methanol in dichloromethane and water. The two phases were separated, and the aqueous layer was extracted twice with 2% methanol in dichloromethane. The combined organic layers were washed with brine, dried over anhydrous MgSO4, and concentrated en vacuo. The crude product was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-50% ethyl acetate in hexane to give a solid. 1H NMR (acetone d-6): δ9.14 (s, 1H), 8.95 (s, 1H), 8.77 (d, 1H), 7.63-7.66 (m, 2H), 7.38 (t, 1H), 6.77 (br, 2H). LRMS [M+H]=197.1

reactant | 2-(tert-butoxycarbonylamino)phenylboronic acid | 1.0 eq. | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)B(O)O | C11H16BNO4
reactant | 3-chloropyrazine-2-carbonitrile | 1.0 eq. | ClC=1C(=NC=CN1)C#N | C5H2ClN3
reactant | potassium carbonate | 2N, 2.0 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 0.44 M | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Pyrazino[2,3-c]quinolin-5-amine | N1=CC=NC=2C(=NC=3C=CC=CC3C21)N | C11H8N4
